US04493843
A solution of 2-(n-pentadecyl)indole-4-carboxylic acid (15 g) in ethanol (100 ml) containing a solution of hydrogen chloride gas in ethanol (100 ml, of strength 35% w/v) was refluxed for 6 hours. After cooling, the solution was poured into water and the solid was collected and was recrystallised from methanol to give ethyl 2-(n-pentadecyl)indole-4-carboxylate (12.4 g), in the form of a pale yellow solid, m.p. 42°-45° C.

reactant | 2-(n-pentadecyl)indole-4-carboxylic acid | 15 g | C(CCCCCCCCCCCCCC)C=1NC=2C=CC=C(C2C1)C(=O)O | C24H37NO2
reactant | hydrogen chloride | Cl | ClH
reactant | water | O | H2O
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 2-(n-pentadecyl)indole-4-carboxylate | 12.4 g | C(CCCCCCCCCCCCCC)C=1NC=2C=CC=C(C2C1)C(=O)OCC | C26H41NO2
